US09260427B2
Prepared using General Procedure 4: To a solution of (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(3-(4-(heptyloxy)phenyl)-1,2,4-oxadiazol-5-yl)phenyl)propanoate (4.52 mg, 0.008 mmol) in MeOH (2 mL) was added of 1 N NaOH (1 mL). The reaction mixture was stirred at 50° C. for 3 h. The resulting mixture was purified by preparative HPLC to afford 0.36 mg (8%) of (S)-2-(4-(tert-butyl)benzamido)-3-(4-(3-(4-(heptyloxy)phenyl)-1,2,4-oxadiazol-5-yl)phenyl) propanoic acid. LCMS-ESI (m/z) calculated for C35H41N3O5: 583.7; no m/z observed, tR=12.59 min (Method 2).

reactant | (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(3-(4-(heptyloxy)phenyl)-1,2,4-oxadiazol-5-yl)phenyl)propanoate | 0.008 mmol, 4.52 mg | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C2=NC(=NO2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C36H43N3O5
reactant | NaOH | 1 N, 1 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | (S)-2-(4-(tert-butyl)benzamido)-3-(4-(3-(4-(heptyloxy)phenyl)-1,2,4-oxadiazol-5-yl)phenyl) propanoic acid | 0.36 mg, 8% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=NC(=NO2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C35H41N3O5
